US07291635B2
Carbonyl diimidazole (60 mg, 0.37 mmol) is added as solid to a solution of the title E compound, N-sulfamoyl-N-[2-(methoxycarbonylmethyl)-phenyl] glycine (112 mg, 0.37 mmol) in THF (5 mL). After 65 h, the solvent is removed by evaporation. The residue is taken up in EtOAc and washed with 1N aqueous HCl followed by brine. The organic solution is dried over anhydrous MgSO4, filtered and concentrated. This residue is then evaporated from diethyl ether to yield [2-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acetic acid methyl ester as a white foam: [M−1]−=283.

reactant | Carbonyl diimidazole | 0.37 mmol, 60 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | N-sulfamoyl-N-[2-(methoxycarbonylmethyl)-phenyl] glycine | 0.37 mmol, 112 mg | S(N)(=O)(=O)N(CC(=O)O)C1=C(C=CC=C1)CC(=O)OC | C11H14N2O6S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [2-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acetic acid methyl ester | COC(CC1=C(C=CC=C1)N1S(NC(C1)=O)(=O)=O)=O | C11H12N2O5S
